US04616025
3.65 g (23.5 mmoles) of cyanimino-dithiocarbonic acid dimethylester (purity: 94%) and 5.43 g (30 mmoles) of N-(4-methylbenzyl)-cysteamine are boiled in 30 ml of ethanol until the evolution of methyl-mercaptan terminates (about 2 hours). The reaction mixture is evaporated and the crystalline residue is recrystallized from 6 ml of isopropanol. 4.65 g (85.5%) of 2-cyanimino-N-(4-methylbenzyl)-thiazolidine are obtained, melting at 102° to 104° C.

reactant | cyanimino-dithiocarbonic acid dimethylester | 23.5 mmoles, 3.65 g | CS(C(OC)=S)=NC#N | C4H6N2OS2
reactant | N-(4-methylbenzyl)-cysteamine | 30 mmoles, 5.43 g | CC1=CC=C(CNCCS)C=C1 | C10H15NS
reactant | methyl-mercaptan | CS | CH4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-cyanimino-N-(4-methylbenzyl)-thiazolidine | 4.65 g, 85.5% | C(#N)N=C1SCCN1CC1=CC=C(C=C1)C | C12H13N3S
